US07745438B2
(2R,3S,5R)-5-[(1S,2S)-1-Hydroxy-2-amino-3-(3-bromo-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester
Add zinc (0.604 g, 9.23 mmol) to a solution of (2R,3S,5R)-5-[(1R,2S)-3-(3-bromo-5-fluoro-phenyl)-1-hydroxy-2-nitro-propyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester (0.520 g, 0.923 mmol) in acetic acid (9.23 mL). Stir the reaction mixture for 22 hours at room temperature. Filter the reaction mixture and wash the filter cake with cold water (100 mL). Add saturated aqueous sodium bicarbonate to the filtrate to neutralize the acid. Extract the neutralized aqueous phase with ethyl acetate (3×250 mL). Dry the combined organic phases with magnesium sulfate and concentrate under reduced pressure to provide the title compound (0.49 g, 99.5%) as a white foam.

reactant | (2R,3S,5R)-5-[(1R,2S)-3-(3-bromo-5-fluoro-phenyl)-1-hydroxy-2-nitro-propyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester | 0.923 mmol, 0.520 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)Br)[N+](=O)[O-])O)OCC(C)(C)C)C | C24H36BrFN2O7
solvent | acetic acid | 9.23 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 9.23 mmol, 0.604 g | [Zn] | Zn
product | (2R,3S,5R)-5-[(1S,2S)-1-Hydroxy-2-amino-3-(3-bromo-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.49 g, 99.5% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)Br)N)O)OCC(C)(C)C)C | C24H38BrFN2O5
